US07598264B2
4-methoxy-6-(4-methoxybenzyl)-N,N-dimethyl-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxamide
A 250 mL THF suspension of 4-methoxy-6-(4-methoxybenzyl)-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylic acid (11.0 g), 8.0 g EDC, 5.7 g HOAT, and 11.2 mL TEA was stirred at room temperature for 20 minutes, followed by addition of 45 mL of a 2M THF solution of dimethylamine and then stirring for 1.5 hours. The reaction was quenched with 200 mL of 1N aq HCl and stirred vigorously for 30 minutes. After concentrating in vacuo until an oil formed on the water layer, 200 mL chloroform was added. The water layer was washed again with chloroform then the combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to pure product by HPLC/MS and NMR.

reactant | 4-methoxy-6-(4-methoxybenzyl)-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylic acid | 11.0 g | COC1=CN=C(C=2CCN(C(C12)=O)CC1=CC=C(C=C1)OC)C(=O)O | C18H18N2O5
reactant | HOAT | 5.7 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | dimethylamine | CNC | C2H7N
solvent | THF | 2M | C1CCOC1 | C4H8O
solvent | EDC | 8.0 g
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 4-methoxy-6-(4-methoxybenzyl)-N,N-dimethyl-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxamide | COC1=CN=C(C=2CCN(C(C12)=O)CC1=CC=C(C=C1)OC)C(=O)N(C)C | C20H23N3O4
